US04526897
2-Amino-4,7-dimethylisoindoline
20 g of N-(t-butyloxycarbonylamino)-4,7-dimethylisoindoline are introduced into 200 ml of concentrated hydrochloric acid and stirred for 2 hours at room temperature. A yield of 17 g of the hydrochloride of 2-Amino-4,7-dimethylisoindoline precipitates in the form of crystals.

reactant | N-(t-butyloxycarbonylamino)-4,7-dimethylisoindoline | 20 g | C(C)(C)(C)OC(=O)NN1CC2=C(C=CC(=C2C1)C)C | C15H22N2O2
solvent | hydrochloric acid | 200 ml | Cl | ClH
product | 2-Amino-4,7-dimethylisoindoline | NN1CC2=C(C=CC(=C2C1)C)C | C10H14N2
